US05792764
3-Allylamino-7-chloro-4H-pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide;
m.p. 224°-227° C. from 7-chloro-3-(imidazol-1-yl)-4H-pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide and allylamine. (Compound 16).

reactant | 7-chloro-3-(imidazol-1-yl)-4H-pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)N2C=NC=C2)N=C1 | C9H6ClN5O2S
reactant | allylamine | C(C=C)N | C3H7N
product | 3-Allylamino-7-chloro-4H-pyrido[2,3-e]-1,2,4-thiadiazine 1,1-dioxide | C(C=C)NC1=NS(C2=C(N1)N=CC(=C2)Cl)(=O)=O | C9H9ClN4O2S
